US05830888
Preparation of 5-chloro-2,3-dimethylpentanoic acid
The title compound was prepared as described for 6-bromo-2,3-dimethylhexanoic acid from isobutyric acid (9.67 g, 109.8 mmol), and 1,3-dichloropropane (37.2 g, 329.2 mmol). The product was purified by flash chromatography (CHCl3) to provide the acid (0.9 g, 5%) as a oil, HRMS (M+Li)+ calcd for C7H13O2ClLi 171.0764, found 171.0766.

reactant | 6-bromo-2,3-dimethylhexanoic acid | BrCCCC(C(C(=O)O)C)C | C8H15BrO2
reactant | isobutyric acid | 109.8 mmol, 9.67 g | C(C(C)C)(=O)O | C4H8O2
reactant | 1,3-dichloropropane | 329.2 mmol, 37.2 g | ClCCCCl | C3H6Cl2
product | 5-chloro-2,3-dimethylpentanoic acid | ClCCC(C(C(=O)O)C)C | C7H13ClO2
